US08877970B2
2-((2-((carboxymethyl)(2-(4-iodophenylamino)-2-oxoethyl)amino)ethyl)-(2-oxo-2-(4-sulfamoylphenylamino)ethyl)amino)acetic Acid (MIP-1222)
A solution of EDTA dianhydride (256 mg, 1.0 mmol) and sulfanilamide (172 mg, 1.0 mmol) in DMF (10.0 mL) was stirred at room temperature for 4 h. 4-Iodoaniline (219 mg, 1.0 mmol) was added to the reaction mixture and the resulting reaction mixture was stirred at room temperature for at least 12 hours (overnight). The solvent was evaporated under reduced pressure and purified over AmberChrom™ resin eluting with CH3CN/water to give the title compound (35.4 mg, 5.5%) as a white solid. 1H NMR (400 MHz, DMSO) δ 10.41 (brs, 1H), 10.19 (s, 1H), 7.79 (d, J=8.0 Hz, 2H), 7.73 (d, J=8.0 Hz, 2H), 7.61 (d, J=8.8 Hz, 2H), 7.47 (d, J=8.8 Hz, 2H), 7.24 (s, 2H), 3.50-3.46 (m, 8H), 2.80 (s, 4H); MS (ESI), 648 (M+H)+.

reactant | EDTA dianhydride | 1.0 mmol, 256 mg | C1C(=O)OC(=O)CN1CCN2CC(=O)OC(=O)C2 | C10H12N2O6
reactant | sulfanilamide | 1.0 mmol, 172 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | 4-Iodoaniline | 1.0 mmol, 219 mg | IC1=CC=C(N)C=C1 | C6H6IN
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 2-((2-((carboxymethyl)(2-(4-iodophenylamino)-2-oxoethyl)amino)ethyl)-(2-oxo-2-(4-sulfamoylphenylamino)ethyl)amino)acetic Acid | 35.4 mg, 5.5% | C(=O)(O)CN(CCN(CC(=O)O)CC(NC1=CC=C(C=C1)S(N)(=O)=O)=O)CC(=O)NC1=CC=C(C=C1)I | C22H26IN5O8S
